US07745458B2
Preparation 5: 2-(4-penten-1-yl)-4-phenylpyrimidine (P5)
A mixture of 5-hexenimidamide hydrochloride (P4, 500 mg), 3-phenyl-2-propynal (398 mg), and sodium carbonate (786 mg) in acetonitrile (15 mL) was irradiated in a microwave synthesizer at 120° C. for 40 min and then allowed to cool. The solution was filtered and evaporated in vacuo. The residue was dissolved in dichloromethane and the organic layer was washed with H2O, dried over Na2SO4, filtered and evaporated in vacuo. The crude was purified by column chromatography (eluting with ciclohexane/ethyl acetate 9/1) to give 142 mg of the title compound.

reactant | 5-hexenimidamide hydrochloride | 500 mg | Cl.C(CCCC=C)(N)=N
reactant | 3-phenyl-2-propynal | 398 mg | C1(=CC=CC=C1)C#CC=O | C9H6O
reactant | sodium carbonate | 786 mg | C([O-])([O-])=O.[Na+].[Na+]
solvent | acetonitrile | 15 mL | C(C)#N | C2H3N
product | 2-(4-penten-1-yl)-4-phenylpyrimidine | 142 mg | C(CCC=C)C1=NC=CC(=N1)C1=CC=CC=C1 | C15H16N2
